US09255090B2
8-(5-Carboxymethyl-2-cyclopropoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C28H26NO5F, MW=475.18)
A mixture under N2 of palladium (II) acetate (0.4 mg, 2 μmol, 0.01 eq.), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1.7 mg, 4 μmol, 0.02 eq.), 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (82.3 mg, 0.2 mmol, 1.00 eq.) and potassium phosphate (84.9 mg, 0.4 mmol, 2.00 eq.) in toluene (0.6 mL) and water (35 μL) was stirred at r.t. during 2 min. A solution of (3-chloro-4-cyclopropoxy-phenyl)-acetic acid tert-butyl ester (57 mg, 0.2 mmol, 1.00 eq.) in toluene (0.6 mL) was added and the mixture was stirred at 100° C. for 18 hours. The mixture was allowed to cool to r.t., filtered through celite, and concentrated in vacuo. The residue, redissolved in MeCN (1.8 mL) and formic acid (0.2 mL), was purified by prep. HPLC (column: Waters XBridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and evaporated. Trifluoroacetic acid (0.23 mL) was slowly added to an ice-cooled solution of the previous tert-butyl ester in DCM (0.23 mL). The reaction mixture was stirred at r.t. for 1.5 hours. The mixture was concentrated in vacuo without heating and the residue was redissolved in DMF (1.3 mL). Formic acid (0.2 mL) was added. The crude mixture was purified by prep. HPLC (column: Waters XBridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and evaporated to give the title compound as a white foam.

reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 4 μmol, 1.7 mg, 0.02 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.2 mmol, 82.3 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)B1OC(C(O1)(C)C)(C)C | C23H27BFNO4
reactant | potassium phosphate | 0.4 mmol, 84.9 mg, 2.00 eq. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (3-chloro-4-cyclopropoxy-phenyl)-acetic acid tert-butyl ester | 0.2 mmol, 57 mg, 1.00 eq. | C(C)(C)(C)OC(CC1=CC(=C(C=C1)OC1CC1)Cl)=O | C15H19ClO3
solvent | toluene | 0.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 35 μL | O | H2O
solvent | toluene | 0.6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 2 μmol, 0.4 mg, 0.01 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-(5-Carboxymethyl-2-cyclopropoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=C(C=CC(=C1)CC(=O)O)OC1CC1 | C28H26FNO5
